US07511066B2
C. Methyl 4-(Boc-amino)pyridine-3-carboxylate
To a stirring suspension of 4-(Boc-amino)pyridine-3-carboxylic acid (1.04 g, 4.37 mmol) in methanol (3.5 mL) was added a 2 M solution of (trimethylsilyl)diazomethane in hexanes (3.5 mL, 7 mmol). After 15 min, acetic acid was added and the solvents were removed in vacuo. The residue was chromatographed over silica gel, eluting with a step gradient of 20% ethyl acetate in hexanes through 70% ethyl acetate in hexanes. The product containing fractions were combined and concentrated in vacuo to give the title compound (0.894 g, 81%) as a white solid.

reactant | 4-(Boc-amino)pyridine-3-carboxylic acid | 4.37 mmol, 1.04 g | C(=O)(OC(C)(C)C)NC1=C(C=NC=C1)C(=O)O | C11H14N2O4
reactant | (trimethylsilyl)diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 3.5 mL | CO | CH4O
product | Methyl 4-(Boc-amino)pyridine-3-carboxylate | 0.894 g, 81% | C(=O)(OC(C)(C)C)NC1=C(C=NC=C1)C(=O)OC | C12H16N2O4
